US07741327B2
In a round bottom flask was placed N-(benzyloxycarbonyl)-α-phosphonoglycine methyl ester (680 mg, 2.05 mmol) in dichloromethane (5 mL) and cooled to 0° C. in an ice bath. To this mixture was added slowly 1,8-diazabicyclo[5.4.0]undec-7-ene (266 μL, 1.78 mmol) and stirred at 0° C. for 20 min. The mixture was treated with a solution of bicyclo[2.2.1]heptane-7-carbaldehyde (170 mg, 1.36 mmol) in dichloromethane (5 mL). After the addition was complete, the mixture was allowed to warm to 25° C. and stirred overnight. The mixture was concentrated in vacuo and the residue taken up in ethyl acetate (50 mL) and washed with a saturated aqueous ammonium chloride solution (2×25 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo. Purification by AnaLogix IntelliFlash flash chromatography (4 g column, 5% ethyl acetate/hexanes to 20% ethyl acetate/hexanes) afforded 2-benzyloxycarbonylamino-3-bicyclo[2.2.1]hept-7-yl-acrylic acid methyl ester (150 mg, 33%) as a clear colorless oil.

reactant | N-(benzyloxycarbonyl)-α-phosphonoglycine methyl ester | 2.05 mmol, 680 mg | COC(C(NC(=O)OCC1=CC=CC=C1)P(=O)(O)O)=O | C11H14NO7P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.78 mmol, 266 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | bicyclo[2.2.1]heptane-7-carbaldehyde | 1.36 mmol, 170 mg | C12CCC(CC1)C2C=O | C8H12O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-benzyloxycarbonylamino-3-bicyclo[2.2.1]hept-7-yl-acrylic acid methyl ester | 150 mg, 33% | COC(C(=CC1C2CCC1CC2)NC(=O)OCC2=CC=CC=C2)=O | C19H23NO4
